US05498734
In a typical regioselective reaction of an unsymmetrical (2-butene-1,4-diyl)magnesium complex, a THF solution of the complex (20 mL) prepared from isoprene (0.281 g, 2.06 mmol, technical grade) and activated magnesium (3.44 mmol) was cooled to -78° C. Me3SiCl (0.171 g, 1.57 mmol) was added via a disposable syringe. The reaction mixture was stirred at -78° C. for 1 hour, and then it was gradually warmed to 0° C. Excess cyclohexanone (0.278 g, 2.83 mmol) was added at 0° C. The reaction mixture was warmed to room temperature and stirred for 1 hour. An aqueous solution of HCl (1.5N, 10 mL) was added at 0° C. The mixture was washed with diethyl ether (20 mL), and the aqueous layer was extracted with diethyl ether (2×20 mL). The combined organic phases were washed with a saturated aqueous solution of NaHCO3 (2×15 mL) and brine (20 mL) and dried over MgSO4. Removal of solvents and flash column chromatography (eluted by hexanes/Et2O, 98:2) gave 1-(2-methyl-1-trimethylsilymethyl-2-propenyl)cyclohexanol as the major isomer (0.372 g, 77%) and 1-(1-methyl-1-trimethylsilylmethyl-2-propenyl)cyclohexanol as the minor isomer (0.025 g, 5%) the major isomer was eluted out before the minor isomer in 82% total yield.

reactant | isoprene | 2.06 mmol, 0.281 g | C=CC(C)=C | C5H8
reactant | magnesium | 3.44 mmol | [Mg] | Mg
reactant | Me3SiCl | 1.57 mmol, 0.171 g | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | cyclohexanone | 2.83 mmol, 0.278 g | C1(CCCCC1)=O | C6H10O
reactant | HCl | 1.5N, 10 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 1-(1-methyl-1-trimethylsilylmethyl-2-propenyl)cyclohexanol | CC(C=C)(C[Si](C)(C)C)C1(CCCCC1)O | C14H28OSi
